US07582643B2
To a solution of N-azetidin-3-yl-2-(3-fluorophenyl)pyrimidine-5-carboxamide (50 mg, 0.16 mmol) in DMF (1.0 mL) was added DIPEA (0.06 mL, 0.32 mmol) and pivaloyl chloride (30 mg, 0.24 mmol). The mixtures were stirred at room temperature overnight. The mixture was partitioned between ethyl acetate and brine. The organic layer was dried (MgSO4), filtered and concentrated to give a solid, which was purified by chromatography (silica, 80% EtOAc/Hex) to give the product, N-[1-(2,2-dimethylpropanoyl)azetidin-3-yl]-2-(3-fluorophenyl)pyrimidine-5-carboxamide (50 mg, 86%). HRMS (M+H)=357.1727 expected, observed=357.1799.

reactant | N-azetidin-3-yl-2-(3-fluorophenyl)pyrimidine-5-carboxamide | 0.16 mmol, 50 mg | N1CC(C1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C14H13FN4O
reactant | DIPEA | 0.32 mmol, 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | pivaloyl chloride | 0.24 mmol, 30 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-[1-(2,2-dimethylpropanoyl)azetidin-3-yl]-2-(3-fluorophenyl)pyrimidine-5-carboxamide | 50 mg, 86% | CC(C(=O)N1CC(C1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F)(C)C | C19H21FN4O2
